US07067517B2
Methyl-phenyl-carbamic acid 1-methyl-2-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-isoquinolin-7-yl ester
The title compound was prepared using methyl-phenyl-carbamic acid 4-[2-(toluene-4-sulfonylamino)-ethyl]-phenyl ester as the sulfonamide and acetaldehyde in stead of formaldehyde. The crude product was purified by preparative HPLC (Gilson) (22%, brown oil).

reactant | methyl-phenyl-carbamic acid 4-[2-(toluene-4-sulfonylamino)-ethyl]-phenyl ester | C1(=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O)C | C23H24N2O4S
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | formaldehyde | C=O | CH2O
product | Methyl-phenyl-carbamic acid 1-methyl-2-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-isoquinolin-7-yl ester | CC1N(CCC2=CC=C(C=C12)OC(N(C1=CC=CC=C1)C)=O)S(=O)(=O)C1=CC=C(C=C1)C | C25H26N2O4S
